US04244961
A mixture of 1.7 g 1-oxa-3,8-diazaspiro[4.5]decan-2-one, 2 g 2-(1-hydroxy-2-bromoethyl)-1,4-benzodioxane [J. Med. Chem., 13, 169 (1970)], 3 ml triethylamine and 5 ml N,N-dimethylformamide is heated at 90° for 18 hours. The mixture is poured into 100 ml water and the resulting mixture stirred for 10 minutes. The stirring is stopped and the aqueous layer decanted. The crude product is filtered through 20 g silica gel with 10% methanol-methylene chloride. Evaporation of the filtrate gives a residue which is taken up in 10 ml methanol. To this solution is added 10 ml of a 3% solution of hydrochloric acid in methanol. Addition of 200 ml of diethyl ether affords a precipitate which is collected by filtration, yielding 1.1 g (mixed erythro and threo) 8-[2-(1,4-benzodioxan-2-yl)-2-hydroxyethyl]-1-oxa-3,8-diazaspiro[4.5]decan-2-one hydrochloride, mp 235°-247° (d).

reactant | 1-oxa-3,8-diazaspiro[4.5]decan-2-one | 1.7 g | O1C(NCC12CCNCC2)=O | C7H12N2O2
reactant | 2-(1-hydroxy-2-bromoethyl)-1,4-benzodioxane | 2 g | OC(CBr)C1COC2=C(O1)C=CC=C2 | C10H11BrO3
reactant | triethylamine | 3 ml | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
solvent | water | 100 ml | O | H2O
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 8-[2-(1,4-benzodioxan-2-yl)-2-hydroxyethyl]-1-oxa-3,8-diazaspiro[4.5]decan-2-one hydrochloride | 1.1 g | Cl.O1C(COC2=C1C=CC=C2)C(CN2CCC1(CNC(O1)=O)CC2)O | InChI=1S/C17H22N2O5.ClH/c20-12(15-10-22-13-3-1-2-4-14(13)23-15)9-19-7-5-17(6-8-19)11-18-16(21)24-17;/h1-4,12,15,20H,5-11H2,(H,18,21);1H
